US05623081
(2R)-5-(Acetyloxy)tetrahydro-2-thiophenemethanol
To a mixture of 0.54 g of 1-O-acetyl-5-O-(tert-butyldiphenylsilyl)-2,3-dideoxy-4-thioribofuranose (prepared by the procedure of J. A. Secrist et al., J. Meal. Chem.,1992, 35, 533) in 8 ml of tetrahydrofuran and 0.6 g of acetic acid is added 4 mmol of 1M n-tetrabutylammonium fluoride solution. The reaction is stirred for 5 hours and then another portion of 0.10 g of acetic acid and I mmol of n-tetrabutylammonium fluoride is added and the reaction is stirred for 1 hour. Cold potassium dihydrogen phosphate and ethyl acetate are added to the reaction mixture, followed by an aqueous workup. Purification by chromatography gives 0.164 g of the desired product.

reactant | 1-O-acetyl-5-O-(tert-butyldiphenylsilyl)-2,3-dideoxy-4-thioribofuranose | 0.54 g | C(C)(=O)OC1CC[C@H](S1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C23H30O3SSi
reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.10 g | C(C)(=O)O | C2H4O2
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (2R)-5-(Acetyloxy)tetrahydro-2-thiophenemethanol | 0.164 g | C(C)(=O)OC1CC[C@@H](S1)CO | C7H12O3S
